US08865891B2
2-(2,7-Dichloro-3,6-dihydroxy-9H-xanthen-9-yl)-benzoic acid (Compound 89)
2′,7′-Dichlorofluorescein (2.0 g, 5.0 mmol) was dissolved in 80 mL of THF, containing 2 mL of acetic acid. Zn (powder, 8.0 g, 122 mmol) was added portionwise (0.5 g with ˜15 min intervals) to the solution of 2′,7′-Dichlorofluorescein. After all amount of Zn was added the reaction mixture was stirred overnight. All solids have been filtered off, washed with THF and evaporated. The residue was re-dissolved in ethyl acetate (120 mL) and washed with water (2×30 mL), brine (30 mL), dried over sodium sulfate and evaporated. The crude product (˜2.0 g, oil) was used for the next step without further purification.

reactant | 2′,7′-Dichlorofluorescein | 5.0 mmol, 2.0 g | C1=CC=C2C(=C1)C(=O)OC23C4=CC(=C(C=C4OC5=CC(=C(C=C35)Cl)O)O)Cl | C20H10Cl2O5
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Zn | 122 mmol, 8.0 g | [Zn] | Zn
product | 2-(2,7-Dichloro-3,6-dihydroxy-9H-xanthen-9-yl)-benzoic acid | ClC1=CC=2C(C3=CC(=C(C=C3OC2C=C1O)O)Cl)C1=C(C(=O)O)C=CC=C1 | C20H12Cl2O5
